Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Asacol
 
Attending: ___.
 
Chief Complaint:
IBD flare; transfer from OSH for consideration of anti-TNF 
therapy. 
 
Major Surgical or Invasive Procedure:
Bronchoscopy
 
History of Present Illness:
___ year old Female with Hypertension, asthma, h/o ulcerative 
colitis, admitted to ___ 2 days ago with N/V, 
RUQ/epigastric abdominal pain, diarrhea (8 BMs a day). Patient 
states that she began to not feel well on ___ night, 
developed abdominal cramping, N/V, which prompted admission to 
___ on ___. Pt states that she typically has 
blood ___ her stools (for months), and although she has a 
difficult time quantifying, probably represents drops to as much 
a Tsp.  

Followed by ___ of GI, she had been undergoing rectal 
steroid therapy after a sigmoidoscopy at ___ ___ that showed 
granularity, friability, erythema, congestion and exudate with 
contact bleeding ___ the rectum and sigmoid colon. Abdominal 
Ultrasound at OSH showed gallstones, no pancreatic 
abnormalities, LFTs and pancreatic enzymes normal. She was 
started on Zosyn on admission and IV steroids for presumed IBD 
flare and now being transferred to ___ for further management 
and consideration of anti-TNF therapy. Will need GI consult on 
arrival and per GI needs pulm consult for workup of cavitary 
lesion before anti-TNF therapy can be started.  

OSH course:  
Pt was started on Zosyn 4.5 gm IV q 6hr, solumedrol 20 mg IV 
q12hr - which appears to have been escalated to 80 mg iv q 8hr, 
and morphine prn pain. Her symptoms improved significantly 
during her hospitalization, however, she does not yet feel back 
to her baseline.  

ROS:  
+: weight loss 17#/5 months, fever on admission to OSH, night 
sweats x months, SOB - due to hx of asthma, chronic dry cough, 
nausea/vomiting (none since OSH admission), abdominal pain - 
generalized ___.  

Denies:  
anorexia, sore throat, chest pain, palpitations, ___ edema, 
orthopnea/PND, diarrhea, constipation. ROS otherwise negative.  
 
Past Medical History:
Ulcerative colitis  
Hypertension, benign  
Anxiety  
methylamine induced pancreatitis  
Iron deficiency anemia  
Mild asthma  
hyperlipidemia  

 
Social History:
___
Family History:
mother - died lung cancer  
father - died colon cancer  
other - brother died colon cancer  

 
Physical Exam:
97.9, 129/73, 66, 20, 96% 
GEN: AAOx3. NAD  
HEENT: EOMI, PERRL, MMM.  
Neck: No LAD.  
RESP: CTA B. No WRR.  
CV: RRR. No mrg.  
ABD: +BS. Soft, Very Mild diffusely TTP. No rebound/guarding 
Ext: No CEE
Neuro: CN ___ grossly intact
 
Pertinent Results:
OSH Labs:  
Na 143 K 3.6 Cl 109 HCO3 24 BUN 17 Cr 0.5 Glu 82  
AST 8 ALT 6 Alk Phos 64 GGT 6.5 Albumin 3.2 BiliT 0.2  
Amylase 41 Lipase 25  
WBC 11.5 HgB 9.4 HCT 29 PLT 406  
U/A neg  

CT abd (OSH):  
minimal bowel wall thickening involvign the ascending and 
transverse colon, and diverticular disease involving the 
descending and proximal sigmoid colon.  

CT CHEST W/O CONTRAST Study Date of ___ 1:29 ___ 
Provisional Findings Impression: DXAe TUE ___ 5:22 ___ 
No change ___ right upper lobe cavitary nodule. New left small 
lower lobe 
lingular opacity should be followed ___ ___ year to ensure 
resolution. 

___ 05:20AM BLOOD WBC-10.7 RBC-3.22* Hgb-9.5* Hct-28.2* 
MCV-88 MCH-29.5 MCHC-33.6 RDW-13.2 Plt ___
___ 07:00AM BLOOD WBC-7.9 RBC-3.07* Hgb-9.3* Hct-27.8* 
MCV-91 MCH-30.4 MCHC-33.6 RDW-12.9 Plt ___
___ 05:40AM BLOOD WBC-9.9 RBC-3.09* Hgb-9.3* Hct-27.5* 
MCV-89 MCH-30.0 MCHC-33.7 RDW-13.2 Plt ___
___ 05:40AM BLOOD Neuts-86.9* Lymphs-9.4* Monos-3.5 Eos-0.1 
Baso-0.1
___ 05:40AM BLOOD ___ PTT-25.3 ___
___ 07:00AM BLOOD ESR-36*
___ 05:20AM BLOOD Glucose-88 UreaN-22* Na-143 K-3.1* Cl-107 
HCO3-29 AnGap-10
___ 07:00AM BLOOD ALT-10 AST-12 AlkPhos-57 Amylase-45 
TotBili-0.2
___ 07:00AM BLOOD Lipase-28
___ 05:40AM BLOOD Lipase-25
___ 05:40AM BLOOD Calcium-8.5 Phos-2.8 Mg-2.3 Iron-28*
___ 05:40AM BLOOD calTIBC-294 Ferritn-47 TRF-226
___ 07:00AM BLOOD CRP-7.6*

___ 10:01 am BRONCHOALVEOLAR LAVAGE      RUL. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 

   RESPIRATORY CULTURE (Preliminary):    CULTURE TOO YOUNG TO 
EVALUATE. 

   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii).. 

   FUNGAL CULTURE (Preliminary): 

   ACID FAST SMEAR (Preliminary): 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
      This is only a PRELIMINARY result.  If ruling out 
tuberculosis, you
      must wait for confirmation by concentrated smear. 

   ACID FAST CULTURE (Preliminary): 

___ 10:01AM OTHER BODY FLUID WBC-0 RBC-0 Polys-6* Bands-2* 
Lymphs-35* Monos-23* Mesothe-5* Macro-29*
 
Brief Hospital Course:
___ year old Female with Hypertension, asthma, h/o ulcerative 
colitis, transferred from ___ for ongoing 
management of IBD flare, and for consideration of initiation of 
anti-TNF therapy. Patient reportedly has a history of a cavitary 
lung lesion of unclear etiology, and would need clarification 
prior to initiation. Additionally, it is noted that patient has 
a history of a pancreatic cyst, which may need further 
evaluation ___ the future.  

# Ulcerative colitis flare:   She was admitted and made NPO, and 
started on IV hydrocortisone.  She had decreased bloody 
diarrhea.  Overall it appeared that her symptoms had improved 
with the local rectal steroid treatment.  She will be discharged 
on prednisone, to be tapered by Dr. ___.  Consideration was 
given to infliximab, but was not required ___ the inpatient 
setting.

# Nausea and vomiting, epigastric pain:  She also presented with 
nausea and vomiting as well as epigastric pain, which did not 
appear consistent with a UC flare.  She had an ultrasound and CT 
that showed gall stones, and her episodic pain appeared 
consistent with biliary colic.  Her LFTs and amylase and lipase 
were normal, although she does have a history of pancreatitis, 
attributed to mesalamine.  She was evaluated by surgery, who 
recommended outpatient elective cholecystecomy

# Right lung cavitary lesion:  She had a chest CT that confirmed 
the presence of a right upper lung lesion, and underwent 
bronchoscopy.  The results of this are still pending.  She will 
follow up with Dr. ___ on ___.

# Hypertension, benign.  She had intermittent hypertension, with 
relative bradycardia.  The atenolol was discontinued, and she 
was started on lisinopril 10 mg po daily.  

# Asthma chronic stable; stable without current flare.  She had 
no respiratory complaints.

# Anemia; with hx of iron deficiency.  Iron studies were 
consistent with iron deficiency, and she will be started on iron 
on discharge when she is tolerating POs.

# Anxiety and depression:  She has a difficult social situation, 
and appeared extremely anxious and intermittently tearful.  She 
was seen by social work, and will find a local therapist.  ___ 
addition, she did not opt for an SSRI due to her GI complaints, 
but this will need to be addressed as an outpatient.

# Pancreatic cyst:  She has a known pancreatic lesion, and will 
be seen as an outpatient by Dr. ___ prior to treatment with 
infliximab, if infliximab is planned.
 
Medications on Admission:
Albuterol MDI prn  
Atenolol 100 mg once a day  
Hydrocortisone 100 mg/60 mL Enema 1 rectally once a day  
Hydrocortisone Acetate [Cortifoam] 10 % Foam 1 (One) Foam(s) 
rectally twice a day  
Lovastatin 80 mg once a day  
Prednisone 5 mg once a day  
 
Discharge Medications:
1. Prednisone 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily) 
for 30 days.
Disp:*30 Tablet(s)* Refills:*0*
2. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. Polyethylene Glycol 3350 100 % Powder Sig: One (1) packet PO 
DAILY (Daily) as needed for constipation.
Disp:*1 box* Refills:*0*
4. Atenolol 100 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Lovastatin 40 mg Tablet Sig: Two (2) Tablet PO once a day.  
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ulcerative colitis with flare.
Nausea and vomiting.
Cholelithiasis
Cavitary lung lesion.
Anxiety/Depression
Benign Hypertension
Iron Deficiency Anemia

 
Discharge Condition:
Stable.
 
Discharge Instructions:
You were admitted with abdominal pain and nausea, and were 
treated for an ulcerative colitis flare.  Some of your symptoms 
are likely from gallstones, and you were evaluated by a surgeon 
who recommended follow up with Dr. ___ as an outpatient 
for removal of your gallbladder.

You are being discharged on high-dose prednisone, Dr. ___ 
will taper this ___ the outpatient setting. Please contact his 
office for instructions.

You also were seen by the lung doctors, for a lung cavity, and 
had a bronchoscopy, the results of which are still pending. You 
will follow up with Dr. ___ pulmonary for follow-up.
 
Followup Instructions:
___